US05948820
(11) 2-Amino-2-ethyl-4-(4-(4-phenylbutyloxy)phenyl)butanol hydrochloride
To a solution of 2-tert-butoxycarbonylamino-2-ethyl-4-(4-(4-phenylbutyloxy)phenyl)butanol (3.2 g) in tetrahydrofuran (10 ml) was added a solution of 4M hydrochloric acid in dioxane (10 ml) and the mixture was stirred for 3 hours. The solvent was distilled away to give the subject compound (3 g).

reactant | 2-tert-butoxycarbonylamino-2-ethyl-4-(4-(4-phenylbutyloxy)phenyl)butanol | 3.2 g | C(C)(C)(C)OC(=O)NC(CO)(CCC1=CC=C(C=C1)OCCCCC1=CC=CC=C1)CC | C27H39NO4
reactant | hydrochloric acid | 4M | Cl | ClH
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 2-Amino-2-ethyl-4-(4-(4-phenylbutyloxy)phenyl)butanol hydrochloride | 3 g | Cl.NC(CO)(CCC1=CC=C(C=C1)OCCCCC1=CC=CC=C1)CC | InChI=1S/C22H31NO2.ClH/c1-2-22(23,18-24)16-15-20-11-13-21(14-12-20)25-17-7-6-10-19-8-4-3-5-9-19;/h3-5,8-9,11-14,24H,2,6-7,10,15-18,23H2,1H3;1H
